US07569578B2
(±)-tert-Butyl-3-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)-1-oxopropan-2-ylcarbamate
tert-Buty-1-hydroxy-3-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)propan-2-ylcarbamate (0.3 g, 0.69 mmol) was dissolved in anhydrous dimethyl sulfoxide (2.5 mL). Triethylamine (0.29 mL, 2.07 mmol) was then added and the reaction mixture cooled to ca. 5° C. using an ice bath. A solution of sulfur trioxide pyridine complex (0.33 g, 2.07 mmol) in dimethyl sulfoxide (2 mL) was added in one portion. After 1 min, the ice bath was removed and the reaction mixture stirred at room temperature for 20 min. The reaction mixture was poured into an ice slurry and extracted with ethyl acetate (3×). The combined organic extracts were washed with 10% citric acid (2×), water (2×), 5% sodium bicarbonate (2×), brine (2×), dried over sodium sulfate, and concentrated. Column chromatography afforded 0.2 g (74%). Mass spec. (in methanol): 466.25 (M+MeOH+H)+.

reactant | tert-Buty-1-hydroxy-3-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)propan-2-ylcarbamate | 0.69 mmol, 0.3 g | C(C)(C)(C)OC(NC(CO)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)=O | C22H37N3O4Si
reactant | Triethylamine | 2.07 mmol, 0.29 mL | C(C)N(CC)CC | C6H15N
solvent | dimethyl sulfoxide | 2.5 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | 2 mL | CS(=O)C | C2H6OS
solvent | methanol | CO | CH4O
product | (±)-tert-Butyl-3-(7-methyl-2-[{2-[trimethylsilyl]ethoxy}methyl]-2H-indazol-5-yl)-1-oxopropan-2-ylcarbamate | C(C)(C)(C)OC(NC(C=O)CC1=CC2=CN(N=C2C(=C1)C)COCC[Si](C)(C)C)=O | C22H35N3O4Si
